US08383652B2
A solution of 11.8 g (46 mmol) of triethyl 2-phosphonobutyrate in 20 mL of tetrahydrofuran is added to a mixture of 1.8 g (46 mmol) of sodium hydride in 20 mL of tetrahydrofuran at 0° C. The reaction medium is stirred for 15 minutes. A solution of 3.4 g (20 mmol) of 3-ethoxy-4-hydroxybenzaldehyde prepared as in Example 32a in 20 mL of tetrahydrofuran is then added to the reaction mixture and the reaction medium is stirred at room temperature for 3 days. The reaction medium is then poured into saturated ammonium chloride solution, acidified with aqueous 2 N hydrochloric acid solution and extracted with ethyl acetate. The organic phases are combined, washed with water and dried over sodium sulfate. The solvent is evaporated off and the residue (12.5 g) is purified by chromatography on a column of silica eluted with an 80/20 heptane/ethyl acetate mixture. 3.7 g (71%) of ethyl 2-[1-(3-ethoxy-4-hydroxyphenyl)meth-(E)-ylidene]butyrate are obtained in the form of a yellow oil.

reactant | triethyl 2-phosphonobutyrate | 46 mmol, 11.8 g | CCC(C(=O)OCC)P(=O)(OCC)OCC | C10H21O5P
reactant | sodium hydride | 46 mmol, 1.8 g | [H-].[Na+]
reactant | 3-ethoxy-4-hydroxybenzaldehyde | 20 mmol, 3.4 g | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | ethyl 2-[1-(3-ethoxy-4-hydroxyphenyl)meth-(E)-ylidene]butyrate | 3.7 g, 71% | C(C)OC=1C=C(C=CC1O)\C=C(\C(=O)OCC)/CC | C15H20O4
